US04725601
To a mixture of 2-amino-3-hydroxypyridine (7 g) and Adogen 464 (Trademark: prepared by Aldrich Chemical Co.) (0.4 g) in 40% aqueous sodium hydroxide (32 ml) and methylene chloride (32 ml) was added 2-methylbenzyl chloride (8.42 ml) at ambient temperature. After being stirred for 24 hours, the organic layer was separated and the aqueous layer was extracted with methylene chloride. The combined extracts were washed with saturated sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated in vacuo. The crystalline residue was recrystallized from ethyl acetate to give 2-amino-3-(2-methylbenzyloxy)pyridine (7.56 g).

reactant | 2-amino-3-hydroxypyridine | 7 g | NC1=NC=CC=C1O | C5H6N2O
reactant | 2-methylbenzyl chloride | 8.42 ml | CC1=C(CCl)C=CC=C1 | C8H9Cl
catalyst | Adogen 464 | 0.4 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | sodium hydroxide | 32 ml | [OH-].[Na+]
solvent | methylene chloride | 32 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-3-(2-methylbenzyloxy)pyridine | 7.56 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)C | C13H14N2O
